US08283104B2
Into a mixture solution of 6.5 g (0.010 mole) of bis(4-tert-butylphenyl)iodonium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate prepared in Synthesis Example 1-13, 2.2 g (0.022 mole) of triethylamine, 0.2 g (0.002 mole) of 4-dimethylaminopyridine, and 25 g of methylene chloride was added 2.4 g (0.020 mole) of pivaloyl chloride, and they were stirred at room temperature for 8 hours. Thereafter, the reaction was terminated by adding 22 g of 5% hydrochloric acid, and then the organic layer was separated, washed by water, and concentrated under reduced pressure. Into the concentrated solution was added methyl isobutyl ketone, and the resulted mixture was concentrated again under reduced pressure to distil the remaining water out. The obtained residue was recrystallized by adding diisopropyl ether, and then the crystals were recovered and dried to obtain the intended bis(4-tert-butylphenyl)iodonium 2-(2,2-Dimethylpropionyloxy)-3,3,3-trifluoro-2-trifluoromethylpropane-1-sulfonate (1.8 g of white crystals (yield 23%)). The structure of the intended product is shown below.

reactant | bis(4-tert-butylphenyl)iodonium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate | 0.010 mole, 6.5 g | FC(C(CS(=O)(=O)[O-])(C(F)(F)F)O)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C
reactant | triethylamine | 0.022 mole, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.020 mole, 2.4 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | 4-dimethylaminopyridine | 0.002 mole, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 25 g | C(Cl)Cl | CH2Cl2
product | bis(4-tert-butylphenyl)iodonium 2-(2,2-Dimethylpropionyloxy)-3,3,3-trifluoro-2-trifluoromethylpropane-1-sulfonate | 1.8 g, yield 23% | CC(C(=O)OC(CS(=O)(=O)[O-])(C(F)(F)F)C(F)(F)F)(C)C.C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C20H26I.C9H12F6O5S/c1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6;1-6(2,3)5(16)20-7(8(10,11)12,9(13,14)15)4-21(17,18)19/h7-14H,1-6H3;4H2,1-3H3,(H,17,18,19)/q+1;/p-1
